### ISSUE TITLE
grind panic: assertion violation in mkEqProofImpl when goal contains metavariables

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#12246]
## Description

`grind` panics with an assertion violation when processing goals that contain unresolved metavariables. The panic occurs even though grind correctly detects and reports the metavariables as an issue.

## Minimal Reproduction

```lean
import Std.Do
import Std.Tactic.Do

def Matrix' (α β γ : Type) : Type := α → β → γ

namespace Matrix'

variable {α : Type} {m n : Nat} {M : Matrix' (Fin m) (Fin n) α}
variable {i i' : Fin m} {j j' : Fin n}

def shuffleRows (M : Matrix' (Fin m) (Fin n) α) (j : Fin n) :
    Matrix' (Fin m) (Fin n) α := sorry

def altColSort (M : Matrix' (Fin m) (Fin n) α) :
    Matrix' (Fin m) (Fin n) α := Id.run do
  let mut M' : Matrix' (Fin m) (Fin n) α := M
  for hj : j in [:n] do M' := M'.shuffleRows ⟨j, by sorry⟩
  return M'

open Std.Do

variable [LE α] [Std.IsLinearOrder α]

set_option mvcgen.warning false

def Monotone' {α : Type} [LE α] (f : Fin n → α) : Prop := ∀ i j, i ≤ j → f i ≤ f j

attribute [grind =] Fin.le_def Monotone'

theorem altColSort_rowSorted' (hM : ∀ i, Monotone' (M i)) (i : Fin m) :
    Monotone' (M.altColSort i) := by
  generalize h : M.altColSort = x
  apply Id.of_wp_run_eq h
  mvcgen invariants
  | inv1 => ⇓⟨cur, M'⟩ => ⌜(∀ j : Fin n, j < cur.pos → Monotone' (M' · j))⌝
  case vc2 => grind
  case vc3 => sorry
  case vc1 => grind  -- panic here

end Matrix'
```

## Error Output

```
PANIC at Lean.Meta.Grind.mkEqProofImpl Lean.Meta.Tactic.Grind.Proof:336:2: assertion violation
```

Grind also reports before the panic:
```
[grind] Issues
  [issue] unexpected metavariable during internalization
        ?m.25
      `grind` is not supposed to be used in goals containing metavariables.
```

## Diagnosis

The panic occurs at `Lean/Meta/Tactic/Grind/Proof.lean:336` in `mkEqProofImpl`:
```lean
assert! (← hasSameType a b)
```

The call chain is:
1. `Order.internalize` processes the goal containing metavariables
2. `Order.processNewEq` is called when processing an equality
3. `mkEqProof` is called, which calls `mkEqProofImpl`
4. The assertion `hasSameType a b` fails because the metavariables cause type mismatches

The `mvcgen` tactic generates verification conditions containing metavariables in structure proof fields (the `property` field of `Cursor` structures). These propagate into the goal and cause `isDefEqD` to return false when comparing types.

## Expected Behavior

Grind should fail gracefully with an error message rather than panicking when it encounters goals with metavariables.

cc @leodemoura @sgraf812

🤖 Prepared with Claude Code

**Comment by sgraf812** [comment]
> The mvcgen tactic generates verification conditions containing metavariables in structure proof fields (the property field of Cursor structures). These propagate into the goal and cause isDefEqD to return false when comparing types.

I wonder if `mvcgen` could avoid generating these metavariables. But at least on live I don't see any metavariables in the goal view with `pp.all`. The pretty-printer instantiates MVars, I believe. So maybe the metavariables are assigned but not instantiated?

**Comment by sgraf812** [comment]
Here's the reproducer without `mvcgen`:

```lean
import Std

def Matrix' (α β γ : Type) : Type := α → β → γ

namespace Matrix'

variable {α : Type} {m n : Nat} {M : Matrix' (Fin m) (Fin n) α}
variable {i i' : Fin m} {j j' : Fin n}

def shuffleRows (M : Matrix' (Fin m) (Fin n) α) (j : Fin n) :
    Matrix' (Fin m) (Fin n) α := sorry

def altColSort (M : Matrix' (Fin m) (Fin n) α) :
    Matrix' (Fin m) (Fin n) α := Id.run do
  let mut M' : Matrix' (Fin m) (Fin n) α := M
  for hj : j in [:n] do M' := M'.shuffleRows ⟨j, by sorry⟩
  return M'

variable [LE α] [Std.IsLinearOrder α]

def Monotone' {α : Type} [LE α] (f : Fin n → α) : Prop := ∀ i j, i ≤ j → f i ≤ f j

attribute [grind =] Fin.le_def Monotone'

example : ∀ {α : Type} {m n} {M : Matrix' (Fin m) (Fin n) α} [LE α] [Std.IsLinearOrder α],
  (∀ (i : Fin m), Monotone' (M i)) →
    ∀ (x : Matrix' (Fin m) (Fin n) α),
      M.altColSort = x →
        ∀ (pref : List Nat) (cur : Nat) (suff : List Nat) (h_1 : [:n].toList = pref ++ cur :: suff)
          (b : Matrix' (Fin m) (Fin n) α),
          (∀ (j : Fin n),
              ↑j < pref.length → Monotone' fun x => b x j) →
            ∀ (j : Fin n),
              ↑j < pref.length + 1 →
                Monotone' fun x => b.shuffleRows ⟨cur, sorry⟩ x j := by grind

-- minimized:
example {α : Type} {m n} [LE α] (b : Matrix' (Fin m) (Fin n) α) (j : Fin n) : 
    Monotone' fun x => b.shuffleRows ⟨0, sorry⟩ x j := by grind

end Matrix'
```

It reproduces on `master` prior to releasing 4.29 and for 4.28-rc1.

It had nothing to do with metavariables, Claude! Instead the assertion in `mkEqProofImpl`  fails because `cast (h : Fin m = Fin n) (w : Fin m)` and `w : Fin m` have different types.
